US07994185B2
Step A: N-(3-{5-(2-Chloro-4-pyrimidinyl)-2-[(2R,6S)-2,6-dimethyl-4-morpholinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide
To N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide (1.5 g, 3.40 mmol) was added DMA (10 mL) and NBS (0.61 g, 3427 mmol). After stirring at rt for 10 min, (2R,6S)-2,6-dimethyl-4-morpholinecarbothioamide (0.800 g, 4.59 mmol) was added and stirring continued for 2 h. Water was added and the solid was collected by filtration and dried over two days to afford the title compound of Step A (1.80 g, 89% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.80 (s, 1H), 8.31 (d, J=5.4 Hz, 1H), 7.49-7.63 (m, 3H), 7.45 (t, J=7.6 Hz, 1H), 7.39 (t, J=6.4 Hz, 1H), 7.31 (t, J=7.8 Hz, 1H), 6.46 (d, J=5.3 Hz, 1H), 3.88 (d, J=11.4 Hz, 1H), 3.66 (br. s., 1H), 2.94 (s, 2H), 2.78 (s, 2H), 1.14 (d, J=6.0 Hz, 6H). m/z (ES+): 597 [M+H]+.

reactant | N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 3.40 mmol, 1.5 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C18H11ClF3N3O3S
reactant | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
reactant | NBS | 3427 mmol, 0.61 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | (2R,6S)-2,6-dimethyl-4-morpholinecarbothioamide | 4.59 mmol, 0.800 g | C[C@@H]1CN(C[C@@H](O1)C)C(N)=S | C7H14N2OS
solvent | Water | O | H2O
product | N-(3-{5-(2-Chloro-4-pyrimidinyl)-2-[(2R,6S)-2,6-dimethyl-4-morpholinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 1.80 g, 89% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1C[C@H](O[C@H](C1)C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C25H21ClF3N5O3S2
